US04476311
2-Methoxy-1-naphthaldehyde [50.0 gm. 0.27 mole] and phenylamine [25 gm., 0.27 mole] were refluxed with benzene [100 ml] for 4 hours. The benzene was evaporated to an oil, dissolved in chloroform, the chloroform dried over sodium sulfate and evaporated to a green semisolid of the 2-methoxy-1-naphthylidene-phenylamine [68.8 gm., 97% yield]

reactant | 2-Methoxy-1-naphthaldehyde | 0.27 mole, 50.0 gm | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
reactant | phenylamine | 0.27 mole, 25 gm | C1(=CC=CC=C1)N | C6H7N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-methoxy-1-naphthylidene-phenylamine | 68.8 gm, 97% yield | COC1C(C2=CC=CC=C2C=C1)=NC1=CC=CC=C1 | C17H15NO
